US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a stirred solution of tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate (75 mg, 0.13 mmol) in dichloromethane (5 mL), trifluoroacetic acid (1 mL) was added. The reaction was allowed to stir for 30 minutes and concentrated. The mixture was partitioned between ethyl acetate (30 mL) and pH 14 saturated aqueous NaCl (10 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The residue was triturated with Et2O to obtain 50 mg (80%) of the desired product. 1H-NMR (DMSO-d6) 8.53 (s, 1H), 7.90 (s, 1H), 7.78 (d, 1H), 7.57 (s, 1H), 7.35-7.28 (m, 5H), 7.11 (d, 1H), 6.70 (s, 1H), 5.64 (s, 2H), 5.11 (d, 1 H), 3.71 (dd, 1 H), 3.33-3.26 (m, 1H), 2.91 (d, 1H), 2.74-2.58 (m, 4H), 2.39 (t, 1H), 2.21-2.00 (m, 4H); LC-MS [M+H]+=481, RT=2.00 min.

reactant | tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | 0.13 mmol, 75 mg | NC1=NC=NN2C1=C(C=C2C2CN1C(CO2)CN(CC1)C(=O)OC(C)(C)C)C=1C=CC2=CN(N=C2C1)CC1=CC=CC=C1 | C32H36N8O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 50 mg, 80% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CNCC1 | C27H28N8O
